US07790747B2
A solution of 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-amide (3.11 g, 8.95 mmol) in acetone (10 ml) and HCl 6N (aq, 8 ml) was refluxed for 18 h. The reaction mixture was quenched with NaOH (aq, 15%) to pH 7-8. The organic material was extracted with CH2Cl2 and the organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (10% MeOH in CH2Cl2; 2.5% NH4OH) to afford 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(4-oxo-piperidin-1-yl)-butyl]-amide (589 mg, 23%). 1H NMR (CDCl3) δ 1.04 (d, 3H, J=6.6 Hz), 1.64-1.72 (m, 1H), 1.81-1.91 (m, 1H), 2.15-2.30 (m, 4H), 2.52 (s, 6H), 2.62-2.72 (m, 2H), 2.84-2.98 (m, 3H), 3.47-3.62 (m, 1H), 3.69-3.77 (m, 1H), 6.94 (br s, 1H), 8.93 (s, 1H).

reactant | 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-amide | 8.95 mmol, 3.11 g | O1CCOC12CCN(CC2)C(CCNC(=O)C=2C(=NC=NC2C)C)C | C18H28N4O3
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | HCl | 6N, 8 ml | Cl | ClH
product | 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(4-oxo-piperidin-1-yl)-butyl]-amide | 589 mg, 23% | O=C1CCN(CC1)C(CCNC(=O)C=1C(=NC=NC1C)C)C | C16H24N4O2
